US09301951B2
Intermediate 71a: N-(3,4-dimethylphenyl)-2-(2-nitro-5-(piperidin-1-yl)phenyl)pyridin-4-amine
Into a 100-mL 3-necked round bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 3,4-dimethylbenzenamine (2 g, 16.53 mmol, 4.98 equiv) in N,N-dimethylformamide (50 mL), and sodium hydride (660 mg, 16.50 mmol, 4.97 equiv, 60%). The resulting solution was stirred for 1 h at room temperature. To this was added 4-fluoro-2-(2-nitro-5-(piperidin-1-yl)phenyl)pyridine (1 g, 3.32 mmol, 1.00 equiv). The resulting solution stirred for an additional 1 h at 50-80° C. in an oil bath. The reaction mixture was cooled. The reaction was then quenched with 150 mL of H2O. The resulting solution was extracted with 3×60 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 1×60 mL of brine, dried over sodium sulfate, and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with ethyl acetate:petroleum ether (1:1). The product was obtained as 500 mg (37%) of a yellow solid.

reactant | 3,4-dimethylbenzenamine | 16.53 mmol, 2 g, 4.98 equiv | CC=1C=C(C=CC1C)N | C8H11N
reactant | sodium hydride | 16.50 mmol, 660 mg, 4.97 equiv | [H-].[Na+]
reactant | 4-fluoro-2-(2-nitro-5-(piperidin-1-yl)phenyl)pyridine | 3.32 mmol, 1 g, 1.00 equiv | FC1=CC(=NC=C1)C1=C(C=CC(=C1)N1CCCCC1)[N+](=O)[O-] | C16H16FN3O2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | N-(3,4-dimethylphenyl)-2-(2-nitro-5-(piperidin-1-yl)phenyl)pyridin-4-amine | 500 mg, 37% | CC=1C=C(C=CC1C)NC1=CC(=NC=C1)C1=C(C=CC(=C1)N1CCCCC1)[N+](=O)[O-] | C24H26N4O2
